US07091228B2
To a solution of 3-(4-bromo-benzoyl)-cyclohexanecarboxylic acid methyl ester (500 mg, 1.54 mmol) and 4-aminophenyl boronic acid (252 mg, 1.85 mmol) in toluene (40 mL) and dioxane (10 mL), 2 N aqueous Na2CO3 (10 mL) was added, and the mixture was degassed by bubbling with a flow of argon for 45 minutes. (1,1-Bis(diphenylphosphino)ferrocene)-dichloropalladium (63 mg, 0.08 mmol) was added to the mixture, which was then heated at 80° C. overnight. The reaction mixture was cooled to rt, and then filtered through a pad of Celite®, rinsing with ethyl acetate. The organic layer was separated, washed with water and brine, and dried (Na2SO4). The solvent was removed by rotary evaporation, and the solid residue was purified by using a Biotage QuadUV flash chromatography system (eluant: 3:1 hexane/EtOAc). The product 3-(4′-amino-biphenyl-4-carbonyl)-cyclohexanecarboxylic acid methyl ester was obtained as a brown solid (200 mg, yield 38.5%). 1H NMR (300 MHz, DMSO) δ 7.90 (d, 2 H), 7.60 (d, 2 H), 7.45 (d, 2 H), 6.80 (d, 2 H), 3.70 (s, 3 H), 3.25 (m, 1 H), 2.50 (m, 1 H), 2.20–1.90 (m, 4 H), 1.70–1.50 (m, 4 H); LC-MS ret. time 3.80 min (method 2), m/z 338.17 (MH+).

reactant | 3-(4-bromo-benzoyl)-cyclohexanecarboxylic acid methyl ester | 1.54 mmol, 500 mg | COC(=O)C1CC(CCC1)C(C1=CC=C(C=C1)Br)=O | C15H17BrO3
reactant | 4-aminophenyl boronic acid | 1.85 mmol, 252 mg | NC1=CC=C(C=C1)B(O)O | C6H8BNO2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 2 N, 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 3-(4′-amino-biphenyl-4-carbonyl)-cyclohexanecarboxylic acid methyl ester | COC(=O)C1CC(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N | C21H23NO3
